US08044213B2
A mixture of 0.210 g (1.06 mmole) of 5-fluoro-2-methoxy-4-nitro-benzaldehyde (IV.46c), 1 mL of trimethylorthoformate, 0.025 g of p-toluenesulfonic acid monohydrate and 5 mL of methanol was heated at reflux for one hour. The mixture was cooled, neutralized by addition of saturated sodium bicarbonate solution and concentrated under reduced pressure. The residue was partitioned between ethyl acetate and saturated sodium bicarbonate solution. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure to give 0.243 g of 1-dimethoxymethyl-5-fluoro-2-methoxy-4-nitro-benzene (IV.46d) as a yellow oil.

reactant | 5-fluoro-2-methoxy-4-nitro-benzaldehyde | 1.06 mmole, 0.210 g | FC=1C(=CC(=C(C=O)C1)OC)[N+](=O)[O-] | C8H6FNO4
reactant | trimethylorthoformate | 1 mL | COC(OC)OC | C4H10O3
reactant | p-toluenesulfonic acid monohydrate | 0.025 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | 1-dimethoxymethyl-5-fluoro-2-methoxy-4-nitro-benzene | 0.243 g | COC(C1=C(C=C(C(=C1)F)[N+](=O)[O-])OC)OC | C10H12FNO5
